US07585886B2
A pyridine solution of 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine which had been synthesized from methyl trans-cinnamate, in accordance with the technique of Ling et al. (“Tetrahedron”, 2001, vol. 57,p. 6579-6588) and the method of International Patent Publication WO 2000/59502, was mixed with acetic anhydride and stirred at room temperature for 2Hours. After completion of the reaction, this was concentrated under a reduced pressure with toluene azeotropy, and THF and 1 M THF solution of TBAF were added to the thus obtained residue and stirred overnight at room temperature. Thereafter, its work-up and purification were carried out in the standard method to obtain (1-acetyl-4-phenylpyrrolidin-3-yl)methanol. EP: 220.

reactant | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-phenylpyrrolidine | [Si](C)(C)(C(C)(C)C)OCC1CNCC1C1=CC=CC=C1 | C17H29NOSi
reactant | methyl trans-cinnamate | C(\C=C\C1=CC=CC=C1)(=O)OC | C10H10O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (1-acetyl-4-phenylpyrrolidin-3-yl)methanol | C(C)(=O)N1CC(C(C1)C1=CC=CC=C1)CO | C13H17NO2
